US08058313B2
bis((E)-3,4,5-Trimethoxystyrylsulfonyl)methane
A solution of 3,4,5-trimethoxybenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 62% yield. m.p. 127-129° C.

reactant | 3,4,5-trimethoxybenzaldehyde | 2 mmol | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-3,4,5-Trimethoxystyrylsulfonyl)methane | 62% yield | COC=1C=C(/C=C/S(=O)(=O)CS(=O)(=O)\C=C\C2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)OC | C23H28O10S2
